US06680313B2
a) 7-(Pyridin-2-yl)thioimidazo[5,1-b]thiazole
A solution of 661 mg of 7-iodoimidazo[5,1-b]thiazole in 15 ml of dry THF was cooled in ice. A 0.95 M ethylmagnesium bromide/THF solution (2.89 ml) was added to the cooled solution under an argon atmosphere. The mixture was stirred at that temperature for 15 min. A solution of 798 mg of S-(pyridin-2-yl) pyridine-2-thiosulfonate in 10 ml of THF was added thereto, and the mixture was stirred at room temperature for 3 hr. A saturated aqueous ammonium chloride solution was added to the reaction mixture, and the mixture was then extracted with ethyl acetate twice, and the extract was washed with brine. The organic layer was dried over anhydrous magnesium sulfate. The solvent was removed by distillation. The residue was purified by column chromatography on silica gel (ethyl acetate) to prepare 456 mg of 7-(pyridin-2-yl)thioimidazo[5,1-b]thiazole.

reactant | 7-iodoimidazo[5,1-b]thiazole | 661 mg | IC=1N=CN2C1SC=C2 | C5H3IN2S
reactant | ethylmagnesium bromide THF | 0.95 M, 2.89 ml | C(C)[Mg]Br.C1CCOC1
reactant | S-(pyridin-2-yl) pyridine-2-thiosulfonate | 798 mg | N1=C(C=CC=C1)S(=O)(SC1=NC=CC=C1)=O | C10H8N2O2S2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 7-(Pyridin-2-yl)thioimidazo[5,1-b]thiazole | N1=C(C=CC=C1)SC=1N=CN2C1SC=C2 | C10H7N3S2
